2197-11-28 11:01:00 Physician Attending Progress Note
Chief Complaint: AFib, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continued intermittent afib with rapid ventricular response. Given
   metoprolol with some effect.
   Stool guaiac positive. Hct stable.
   O2 sats good on nasal O2 supplementation.
   C diff pending.
   Somewhat less responsive today.
   Problems with [**Name2 (NI) 3489**] noted over night.
   24 Hour Events:
 ULTRASOUND - At [**2197-11-27**] 03:00 PM
   LENIs
 EKG - At [**2197-11-27**] 08:45 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Horse Blood Extract
   Unspecified [**Doctor First Name **]
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Adhesive Tape (Topical)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-27**] 09:30 AM
   Cefipime - [**2197-11-28**] 12:00 AM
   Metronidazole - [**2197-11-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-11-28**] 08:30 AM
   Metoprolol - [**2197-11-28**] 09:30 AM
   Dextrose 50% - [**2197-11-28**] 10:00 AM
   Other medications:
   Colace (hold), zofran, senna, albuterol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-28**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 113 (85 - 163) bpm
   BP: 106/65(72) {87/53(61) - 138/78(92)} mmHg
   RR: 21 (12 - 33) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,575 mL
                                                                    395 mL
   PO:
             TF:
   IVF:
                                                                  1,532 mL
                                                                    320 mL
   Blood products:
                                                                  1,043 mL
   Total out:
                                                                    250 mL
                                                                    310 mL
   Urine:
                                                                    250 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,325 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : right
   base), (Breath Sounds: No(t) Clear : , Crackles : left greater than
   right base, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: Diffuse, No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): not sufficiently responsive to
   assess, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   6.8 g/dL
   18 K/uL
   49 mg/dL
   6.9 mg/dL
   15 mEq/L
   5.5 mEq/L
   106 mg/dL
   99 mEq/L
   142 mEq/L
   22.3 %
   0.3 K/uL
        [image002.jpg]
                            [**2197-11-27**]  10:40 AM
                            [**2197-11-27**]  09:33 PM
                            [**2197-11-28**]  12:02 AM
                            [**2197-11-28**]  04:51 AM
                            [**2197-11-28**]  08:26 AM
   WBC
   0.3
   0.2
   0.4
   0.3
   Hct
   22.2
   21.3
   22.0
   22.3
   Plt
   33
   30
   18
   18
   Cr
   6.3
   6.6
   6.6
   6.9
   TropT
   0.08
   Glucose
   103
   58
   50
   49
   Other labs: PT / PTT / INR:23.8/43.9/2.3, CK / CKMB /
   Troponin-T:105/4/0.08, ALT / AST:66/116, Alk Phos / T Bili:182/3.3,
   Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:468 IU/L, Ca++:5.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:8.9 mg/dL
   Imaging: CXR: compared to [**2197-11-26**] - decreased lung volumes.Increased
   densities at bases, most noted at right base with air bronchogram.
   Diffuse increase in interstitial and vascular markings
   Microbiology: Gram neg rods in urine.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
 DIARRHEA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CANCER (MALIGNANT NEOPLASM), OTHER
 TACHYCARDIA, OTHER
   AFIB
   HYPOCALCEMIA
   THROMBOCYTOPENIA
   Patient's mental status improved this AM, perhaps related to weaning of
   the narcotic effect. Uremia may now be playing a bigger role in his
   altered mental status. Also appears to be more volume overloaded by
   CXR. Metabolic acidosis has been worsening, presumably secondary to
   renal failure. Would transfuse PRBC's today with dialsysis.
   C diff pending re: diarrhea.
   On antibiotics for UTI.
   Hypoglycemia likely secondary to worsening mets to the liver.
   Supporting with D10W for now.
   Replete calcium today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2197-11-27**] 06:22 AM
   18 Gauge - [**2197-11-27**] 06:22 AM
   20 Gauge - [**2197-11-28**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2197-11-29 10:55:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, chronic renal faiulre. anemia,
   tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient dialyzed yesterday. Mental status not significantly changed.
   C diff negative
   Continued intermittent tachycardia. Has been receiving intermittent
   morphine for comfort, which has led to low BP and the metoprolol needed
   to be held.
   Patient given blood transfusion yesterday.
   Remains on D10W for hypoglycemia
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Horse Blood Extract
   Unspecified [**Doctor First Name **]
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Adhesive Tape (Topical)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-27**] 09:30 AM
   Cefipime - [**2197-11-29**] 12:18 AM
   Metronidazole - [**2197-11-29**] 02:25 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2197-11-28**] 12:00 PM
   Metoprolol - [**2197-11-28**] 04:15 PM
   Morphine Sulfate - [**2197-11-28**] 08:00 PM
   Pantoprazole (Protonix) - [**2197-11-29**] 08:08 AM
   Other medications:
   Colace, lactulose (held), protonix.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-29**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 139 (114 - 142) bpm
   BP: 82/42(116) {70/42(49) - 127/4,962(116)} mmHg
   RR: 33 (10 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 68 Inch
             Total In:
                                                                  1,935 mL
                                                                    872 mL
   PO:
             TF:
   IVF:
                                                                  1,060 mL
                                                                    872 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    620 mL
                                                                     50 mL
   Urine:
                                                                    620 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                    822 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Dry mucus membranes
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Left lateral lung, Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Near area of bladder tube, No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   Slightly delayed capillary refill
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Unable to asssess due to lack of response,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   15 K/uL
   64 mg/dL
   5.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   72 mg/dL
   104 mEq/L
   145 mEq/L
   28.0 %
   0.3 K/uL
        [image002.jpg]
                            [**2197-11-27**]  10:40 AM
                            [**2197-11-27**]  09:33 PM
                            [**2197-11-28**]  12:02 AM
                            [**2197-11-28**]  04:51 AM
                            [**2197-11-28**]  08:26 AM
                            [**2197-11-28**]  05:08 PM
                            [**2197-11-29**]  03:33 AM
                            [**2197-11-29**]  05:30 AM
   WBC
   0.3
   0.2
   0.4
   0.3
   0.4
   0.3
   Hct
   22.2
   21.3
   22.0
   22.3
   28.2
   26.5
   28.0
   Plt
   33
   30
   18
   18
   40
   15
   Cr
   6.3
   6.6
   6.6
   6.9
   4.3
   4.8
   5.0
   TropT
   0.08
   Glucose
   103
   58
   50
   49
   100
   70
   64
   Other labs: PT / PTT / INR:28.5/49.8/2.8, CK / CKMB /
   Troponin-T:105/4/0.08, ALT / AST:66/116, Alk Phos / T Bili:182/3.3,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:78.0 %, Mono:21.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:468 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
 DIARRHEA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CANCER (MALIGNANT NEOPLASM), OTHER
 TACHYCARDIA, OTHER
   Patient's tachycardia may be worsened by what appears to be more severe
   volume depletion this AM on exam. Would give additional fluids for now.
   Need to clarify with family whether their goal is to maximize his
   longevity and physiological function vs comfort.
   Continue D10W for now.
   No further dialysis for now.
   Anemia
 hct stable. No further transfusion now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-11-28**] 08:12 AM
   20 Gauge - [**2197-11-28**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2197-11-30 07:13:00 Physician Resident Progress Note
Chief Complaint: metastatic bladder ca with somnolence
   24 Hour Events:
   - Pt made [** 580**] yesterday.
   - Pt given IVF and Morphine PRN
   Patient unable to provide history: Unresponsive
   Allergies:
   Horse Blood Extract
   Unspecified [**Doctor First Name **]
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Adhesive Tape (Topical)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-27**] 09:30 AM
   Cefipime - [**2197-11-29**] 12:18 AM
   Metronidazole - [**2197-11-29**] 02:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-11-29**] 08:08 AM
   Morphine Sulfate - [**2197-11-30**] 04:04 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt unable to give ROS
   Flowsheet Data as of  [**2197-11-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 77 (73 - 139) bpm
   BP: 75/40(49) {38/28(30) - 82/49(116)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,540 mL
                  PO:
                  TF:
   IVF:
                                                                  1,540 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                      0 mL
   Urine:
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,410 mL
                                                                      0 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely, Diminished: at bases)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   15 K/uL
   8.9 g/dL
   64 mg/dL
   5.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   72 mg/dL
   104 mEq/L
   145 mEq/L
   28.0 %
   0.3 K/uL
        [image002.jpg]
                            [**2197-11-27**]  10:40 AM
                            [**2197-11-27**]  09:33 PM
                            [**2197-11-28**]  12:02 AM
                            [**2197-11-28**]  04:51 AM
                            [**2197-11-28**]  08:26 AM
                            [**2197-11-28**]  05:08 PM
                            [**2197-11-29**]  03:33 AM
                            [**2197-11-29**]  05:30 AM
   WBC
   0.3
   0.2
   0.4
   0.3
   0.4
   0.3
   Hct
   22.2
   21.3
   22.0
   22.3
   28.2
   26.5
   28.0
   Plt
   33
   30
   18
   18
   40
   15
   Cr
   6.3
   6.6
   6.6
   6.9
   4.3
   4.8
   5.0
   TropT
   0.08
   Glucose
   103
   58
   50
   49
   100
   70
   64
   Other labs: PT / PTT / INR:28.5/49.8/2.8, CK / CKMB /
   Troponin-T:105/4/0.08, ALT / AST:66/116, Alk Phos / T Bili:182/3.3,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:78.0 %, Mono:21.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:468 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 COMFORT CARE ([**Year (4 digits) 580**], COMFORT MEASURES)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
 DIARRHEA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CANCER (MALIGNANT NEOPLASM), OTHER
 TACHYCARDIA, OTHER
   Mr. [**Known lastname 3490**] 67 y.o male with bladder cancer with large pelvic masses,
   HD dependence M/W/F and recent chemo with (taxol, gemzar) now
   presenting with n/v/d/ new afib with RVR, metastatic disease
   1-Tachycardia: patient presented with Afib. Was in and out of sinus and
   now back in sinus.  Likely [**2-18**] sepsis (likely source UTI) in setting of
   neutropenia. Pt has been afebrile here. [**2-18**] hypotension, pt has not
   been getting metoprolol.
   - Pt is [**Name (NI) 580**]. Morphine ordered q2hrs however, pt needed only once
   overnight
   2- AMS- thought at first related to narcotics then uremia (dialyzed
   [**11-28**]) now likely [**2-18**] hepatic encephalopathy and/or advancing
   metastatic disease.
   -Morphine ordered as above. MS not expected to improve at this time
   3-ESRD on HD- HD done [**11-28**] but none planned further as pt is [**Name (NI) 580**].
   4-[**Name (NI) 3491**] Pt likely with chronic anemia but also now with guaiac
   positive stools. ? source of GI bleed.
   -Have discontinued lab draws at this time.
   5-Hypoglycemia- likely [**2-18**] continuing liver failure. Pt not awake
   enough to be safe for PO intake.
   -Cont D10 gtt at 40cc/hr for now
   6- Thrombocytopenia: likely related to bone marrow suppression.
   7- Metastatic bladder ca: Dr. [**Last Name (STitle) 3481**] spoke with family [**11-28**] and they
   understand that his disease is end stage and agree not to further treat
   his Ca at this time. Pt was made [**Month/Year (2) 580**] after discussion with family
   [**11-29**].
   ICU Care
   Nutrition: npo except for ice chips
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2197-11-28**] 08:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:Transfer to floor

2197-11-30 12:37:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient receiving comfort measures. BP has been dropping. Getting
   morphine as needed. No additional fluids to be given.
   24 Hour Events:
   Allergies:
   Horse Blood Extract
   Unspecified [**Doctor First Name **]
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Adhesive Tape (Topical)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2197-11-29**] 12:18 AM
   Metronidazole - [**2197-11-29**] 02:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2197-11-30**] 04:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-30**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 90 (73 - 136) bpm
   BP: 112/63(75) {38/28(30) - 112/63(75)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,540 mL
                  PO:
                  TF:
   IVF:
                                                                  1,540 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                      0 mL
   Urine:
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,410 mL
                                                                      0 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Clear antiorally and laterally, No(t) Crackles
   : , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   Diffusely
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   15 K/uL
   64 mg/dL
   5.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   72 mg/dL
   104 mEq/L
   145 mEq/L
   28.0 %
   0.3 K/uL
        [image002.jpg]
                            [**2197-11-27**]  10:40 AM
                            [**2197-11-27**]  09:33 PM
                            [**2197-11-28**]  12:02 AM
                            [**2197-11-28**]  04:51 AM
                            [**2197-11-28**]  08:26 AM
                            [**2197-11-28**]  05:08 PM
                            [**2197-11-29**]  03:33 AM
                            [**2197-11-29**]  05:30 AM
   WBC
   0.3
   0.2
   0.4
   0.3
   0.4
   0.3
   Hct
   22.2
   21.3
   22.0
   22.3
   28.2
   26.5
   28.0
   Plt
   33
   30
   18
   18
   40
   15
   Cr
   6.3
   6.6
   6.6
   6.9
   4.3
   4.8
   5.0
   TropT
   0.08
   Glucose
   103
   58
   50
   49
   100
   70
   64
   Other labs: PT / PTT / INR:28.5/49.8/2.8, CK / CKMB /
   Troponin-T:105/4/0.08, ALT / AST:66/116, Alk Phos / T Bili:182/3.3,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:78.0 %, Mono:21.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:468 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
 DIARRHEA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CANCER (MALIGNANT NEOPLASM), OTHER
 TACHYCARDIA, OTHER
   Patient receiving comfort measures. Still showing evidence of abdominal
   pain. Will start morphine infusion. Case discussed with patient's son.
   ICU [**Name2 (NI) 81**]
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-28**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 30 minutes